US04565568
PREPARATION OF 3-CHLORO-2-CYANO-5-(TRIFLUOROMETHYL)PYRIDINE
3-Chloro-2-fluoro-5-(trifluoromethyl)pyridine (obtained as a by-product from the fluorine exchange reaction when converting 2,3-dichloro-5-trichloromethyl pyridine to 2,3-dichloro-5-(trifluoromethyl)pyridine) (40.0 g, 0.2 mole) was put into 270 ml of dimethyl sulfoxide and stirred while potassium cyanide (14.4 g, 0.221 mole) was spooned in over a 20-minute period. The mixture was then stirred for another 20 minutes. The temperature was held between 23° and 28° C. throughout the reaction. The mixture was poured into 600 ml of ice water and the product was extracted into hexane. The hexane was removed on a rotary evaporator. The product was treated with activated charcoal and distilled on a Vigreaux-Claisen still at 108°-110° C. at 30 mm Hg to yield 31.45 g of colorless oil with an analysis of, in percent by weight:

reactant | 2,3-dichloro-5-trichloromethyl pyridine | ClC1=NC=C(C=C1Cl)C(Cl)(Cl)Cl | C6H2Cl5N
reactant | 2,3-dichloro-5-(trifluoromethyl)pyridine | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | potassium cyanide | 0.221 mole, 14.4 g | [C-]#N.[K+]
solvent | dimethyl sulfoxide | 270 ml | CS(=O)C | C2H6OS
product | 3-CHLORO-2-CYANO-5-(TRIFLUOROMETHYL)PYRIDINE | 31.45 g | ClC=1C(=NC=C(C1)C(F)(F)F)C#N | C7H2ClF3N2
